US04479002
To a solution of 62 g (0.6 mole) of sulfur dichloride in 200 ml of methylene chloride cooled to 0° C. under a nitrogen atmosphere was added a solution made up of 50.9 g (0.4 mole) of t-butyl N-methylcarbamate, 44.5 g (0.44 mole) of triethylamine and 100 ml of methylene chloride. The temperature was maintained at -2° to 5° C. during the addition. After stirring for one additional hour at 5° C., the mixture was filtered under a positive nitrogen atmosphere, and the filtrate was concentrated. Solid was removed by extracting the product with hexane. After filtration the hexane solution was concentrated to give 81.5 g of t-butyl N-chlorothio-N-methylcarbamate.

reactant | sulfur dichloride | 0.6 mole, 62 g | S(Cl)Cl | Cl2S
reactant | t-butyl N-methylcarbamate | 0.4 mole, 50.9 g | CNC(OC(C)(C)C)=O | C6H13NO2
reactant | triethylamine | 0.44 mole, 44.5 g | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 200 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 100 ml | C(Cl)Cl | CH2Cl2
product | t-butyl N-chlorothio-N-methylcarbamate | 81.5 g | ClSN(C(OC(C)(C)C)=O)C | C6H12ClNO2S
